US06294692B1
165.2 g of L-leucine and 821.7 g of formamide are introduced, under a nitrogen atmosphere, into a reactor equipped with a stirrer system. The mixture is heated at 100° C. for approximately 6 hours. Approximately 513 g of formamide are then removed by distillation under a pressure of 20 -30 mm of mercury and at a pot temperature of 50°-60° C. 1082 g of water are subsequently added to the mixture. It is cooled to 20°-25° C. It is then acidified to pH 2.5 with sulphuric acid. It is stirred for 2 hours at approximately 20° C. and then for one hour at 5° C. Filtration is carried out and the cake is rinsed with 100 g of water at pH 2. It is dried under vacuum. 180.3 g of N-formyl-L-leucine are thus obtained (90% yield) with an optical rotation [α]D20=−17.7° (c=1 in ethanol), i.e. a purity of 98.3%.

reactant | L-leucine | 165.2 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | formamide | 821.7 g | C(=O)N | CH3NO
product | N-formyl-L-leucine | 180.3 g, 90% yield | C(=O)N[C@@H](CC(C)C)C(=O)O | C7H13NO3
